US04695581
1.85 g of 5-amino-2-(4-methoxy-3,5-dimethylphenyl)-3-methylindole was dissolved in 20 ml of pyridine, and 1.51 g of p-toluenesulfonyl chloride was added. The mixture was stirred at room temperature for 1 hour. Ethyl acetate was added to the reaction mixture, and the mixture was washed with 5% hydrochloric acid and water, and dried. The solvent was evaporated, and the residue was purified by silica gel column chromatography to give 2-(4-methoxy-3,5-dimethylphenyl)-3-methyl-5-p-toluenesulfonylaminoindole.

reactant | 5-amino-2-(4-methoxy-3,5-dimethylphenyl)-3-methylindole | 1.85 g | NC=1C=C2C(=C(NC2=CC1)C1=CC(=C(C(=C1)C)OC)C)C | C18H20N2O
reactant | p-toluenesulfonyl chloride | 1.51 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-methoxy-3,5-dimethylphenyl)-3-methyl-5-p-toluenesulfonylaminoindole | COC1=C(C=C(C=C1C)C=1NC2=CC=C(C=C2C1C)NS(=O)(=O)C1=CC=C(C=C1)C)C | C25H26N2O3S
